datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20](C(F)(F)F)[C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:61][C:11]([C:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[C:81](=[O:82])[N-:10][S:61]2(=[O:62])=[O:72].C1C[C:20](=[O:21])CCO1>>C1=CC2=C(C=C1)[C:81](=[O:82])[N:10]([C:20]1([O-:21])CCOCC1)[S:61]2(=[O:62])=[O:72] 10=20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH2:10][C:11](C2=CC=CC=C2)=[NH+:12][C:63](C)=[O:64])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.C[C:63]1=[N+:62]([BH2-:11][H:10])[C:73](C)=[CH:74][CH:65]=[CH:64]1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[H:10])(=[O:33])=[O:34])C=C1.C[C:63]1=[N+:62]([BH2:11])[C:73](C)=[CH:74][CH:65]=[CH:64]1 10,11=10,20;20,21=21"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10]>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[Pb:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20;20,21=21"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([H:10])C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>C[N:23](C)[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC=C([S:63]([N:12](CC2=CC=CC=C2)[C:11]#[C:10]C2=CC=CC=C2)(=[O:64])=[O:74])C=C1>>CC1=CC=C([S:63]([N+:12](CC2=CC=CC=C2)=[C:11]=[C:10](C2=CC=CC=C2)[CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)(=[O:64])=[O:74])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[H:10][C:11]([C:12]1=[CH:13][CH:14]=[CH:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[C:11](=[C:12]1[CH:13]=[CH:14][CH+:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21"
"C[C:74]1=[CH:73][N:10]=[CH:61][NH:62]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].C[C:74]1=[CH:73][N+:10]([S:20]C(F)(F)F)=[CH:61][NH:62]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.C[N:12]1[CH:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>C[N+:12]1=[CH:11][N:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12"
C1CC[NH:10]C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCCC2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[Si:63](C)(Cl)[CH2:62][CH:11]=[CH2:10]>>C[Si:63](C)(Cl)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
